US05639782
Step A Preparation of 2-(3,5-dimethoxyphenyl)-1,3-dioxane (44) (FIG. 23)
3,5-dimethoxybenzaldehyde (5.00 g,30.12 mmole), 1,3-propanediol (9.15 g, 120.5 mmole), pyridinium para-toluenesulfonate (3.02 g, 12.05 mmole) and 80 ml dry benzene were refluxed with Dean-Stark removal of the benzene-water azeotrope for 12 hours. The benzene was removed in vacuo and the remaining oil redissolved in dichloromethane and was washed with 10% NaHCO3 and H2O. The organic layer was washed over Na2SO4 and concentrated to an oil in vacuo which was purified by flash column chromatography using 2:1 hexane/ethyl acetate containing 0.5% triethylamine as eluent. (5.731 g, 85%).

reactant | 3,5-dimethoxybenzaldehyde | 30.12 mmole, 5.00 g | COC=1C=C(C=O)C=C(C1)OC | C9H10O3
reactant | 1,3-propanediol | 120.5 mmole, 9.15 g | C(CCO)O | C3H8O2
reactant | pyridinium para-toluenesulfonate | 12.05 mmole, 3.02 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | benzene | 80 ml | C1=CC=CC=C1 | C6H6
solvent | benzene water | C1=CC=CC=C1.O
product | 2-(3,5-dimethoxyphenyl)-1,3-dioxane | COC=1C=C(C=C(C1)OC)C1OCCCO1 | C12H16O4
